US09428499B2
Step-4: Synthesis of tert-butyl 4-(3-(5-((2-fluoro-4-iodophenyl)amino)-3-(4-methoxybenzyl)-6,8-dimethyl-2,4,7-trioxo-3,4,6,7-tetrahydropyrido[4,3-d]pyrimidin-1(2H)-yl)benzoyl)piperazine-1-carboxylate (3e)
To a stirred solution of 3-(5-((2-fluoro-4-iodophenyl)amino)-3-(4-methoxybenzyl)-6,8-dimethyl-2,4,7-trioxo-3,4,6,7-tetrahydropyrido[4,3-d]pyrimidin-1(2H)-yl)benzoic acid (1 g, 1.465 mmol), EDC (0.421 g, 2.198 mmol), HOBT (0.337 g, 2.198 mmol) and tert-butyl piperazine-1-carboxylate (0.409 g, 2.198 mmol) in THF (5 ml); cooled to 0° C., was added Hunig's base (0.512 ml, 2.93 mmol). The resulting mixture was stirred under N2 atm for 2 h at room temperature. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate (25 ml) and water (25 ml). The organic phase was separated and aq. phase was re-extracted with ethyl acetate. The combined organic layers were dried over sodium sulphate and evaporated in vacuo to obtain crude product, which was carried forward for the next step without further purification.

reactant | 3-(5-((2-fluoro-4-iodophenyl)amino)-3-(4-methoxybenzyl)-6,8-dimethyl-2,4,7-trioxo-3,4,6,7-tetrahydropyrido[4,3-d]pyrimidin-1(2H)-yl)benzoic acid | 1.465 mmol, 1 g | FC1=C(C=CC(=C1)I)NC=1N(C(C(=C2N(C(N(C(C21)=O)CC2=CC=C(C=C2)OC)=O)C=2C=C(C(=O)O)C=CC2)C)=O)C | C30H24FIN4O6
reactant | EDC | 2.198 mmol, 0.421 g
reactant | HOBT | 2.198 mmol, 0.337 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tert-butyl piperazine-1-carboxylate | 2.198 mmol, 0.409 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Hunig's base | 2.93 mmol, 0.512 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-(5-((2-fluoro-4-iodophenyl)amino)-3-(4-methoxybenzyl)-6,8-dimethyl-2,4,7-trioxo-3,4,6,7-tetrahydropyrido[4,3-d]pyrimidin-1(2H)-yl)benzoyl)piperazine-1-carboxylate | FC1=C(C=CC(=C1)I)NC=1N(C(C(=C2N(C(N(C(C21)=O)CC2=CC=C(C=C2)OC)=O)C=2C=C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC2)C)=O)C | C39H40FIN6O7
